US05859007
C. 3-Bromomethyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine
A stirring solution of 240 mg (1.03 mmol) of 3-Methyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine, prepared as in Part B, in 10 mL of CCl4 is heated to reflux, and then a mixture of 220 mg (1.23 mmol, 1.2 equiv) of N-bromosuccinimide and 25 mg (0.10 mmol, 0.1 equiv) of benzoyl peroxide is added all at once as a solid. The resulting solution is heated at reflux for 3.5 h, then cooled to RT. The reaction mixture is filtered through a pad of Celite to remove the precipitated succinimide, and the solvent is removed in vacuo. Purification of the crude material by silica gel flash column chromatography using hexane/EtOAc 3/1 as eluent afforded 170 mg of the title compound as a white solid: 1H NMR (CDCl3, 400 MHz) δ8.75 (dd, 1H, J=1.4, 4.6), 8.21 (dd, 1H, J=1.4, 8.0), 7.32 (dd, 1H, J=4.6, 8.0), 4.74 (s, 2H), 1.70 (s, 9H).

reactant | 3-Methyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine | 1.03 mmol, 240 mg | CC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H15N3O2
reactant | N-bromosuccinimide | 1.23 mmol, 220 mg, 1.2 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.10 mmol, 25 mg, 0.1 equiv | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromomethyl-1 tert-butoxycarbonyl-pyrazolo[3,4-b]pyridine | 170 mg | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
